US07723367B2
5-Fluoro-2-hydroxy-benzaldehyde oxime
A solution of sodium acetate trihydrate (1.94 g, 14.28 mmol) in H2O (8 mL) was added to a warm solution of 5-fluoro-2-hydroxy-benzaldehyde (1.0 g, 7.14 mmol) and NH2OH HCl (992 mg, 14.28 mmol) in 80% ethanol (30 mL). The reaction mixture was refluxed for 3 hr. Removal of ethanol, the mixture was cooled to rt, collected the precipitate and washed with water, dried to afford the title compound (920 mg, 83%). MS (DCI/NH3) m/z 217 (M+62)+. 1HNMR (500 MHz, DMSO-d6) δ ppm 6.89 (dd, J=9.15, 4.88 Hz, 1H) 7.07 (td, J=8.54, 3.05 Hz, 1H) 7.29 (dd, J=9.46, 3.05 Hz, 1H) 8.30 (s, 1H) 10.02 (brs, 1H) 11.46 (brs, 1H).

reactant | sodium acetate trihydrate | 14.28 mmol, 1.94 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | 5-fluoro-2-hydroxy-benzaldehyde | 7.14 mmol, 1.0 g | FC=1C=CC(=C(C=O)C1)O | C7H5FO2
reactant | NH2OH HCl | 14.28 mmol, 992 mg | NO.Cl
solvent | H2O | 8 mL | O | H2O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 5-Fluoro-2-hydroxy-benzaldehyde oxime | 920 mg, 83% | FC=1C=CC(=C(C=NO)C1)O | C7H6FNO2
